Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / clindamycin / Compazine
 
Attending: ___
 
Chief Complaint:
fever, low back pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ year old female with PMHx endometriosis, 
otosclerosis, asthma who presents with fevers and low back pain. 
Patient intially had strep throat ___ in ___, 
initially treated with Avelox. She progressed to having swollen 
lymphnodes, had Biaxin added after which she developed neck pain 
and stiffness (in this time period had a dental cleaning while 
on Avelox - reports she does need a root canal). This led to a 
workup at ___ where she had a CT which she reports showed 
peritonsillar swelling. Was treated with decadron which 
decreased her swelling. She was referred to an ID specialist and 
the day of her appointment, developed difficulty speaking and 
went back to ___, where she was admitted for expressive 
apahasia and concern for TIA. She had a CT, echo, carotid U/S, 
and MRI head which she reports was all normal. She was also 
treated with 3 days of vancomycin, after which she started 
feeling better. She did develop back pain prior to being 
discharged, however attributed that to the beds that were used. 
Her back pain progressed and yesterday, it acutely worsened so 
she went to an Urgent Care center, had a lumbar MRI performed. 
This AM, the pain worsened again and she had a fever and rash on 
her trunk so came to the ED for evaluation. Of note, she reports 
her son was recently ___ with strep as well.
.
In the ED, initial vs were: 100.6 117 170/88 18 100% RA. Patient 
had a CXR, blood cx and urine cx sent, and got a dose of 
vancomycin. ESR and CRP were also sent and pending. Her vitals 
on admission were 99.8, 98, 145/84, 18, 100 RA.
.
On the floor, the patient is complaining of back pain, but 
otherwise feels well. Is visibly anxious about what has been 
going on.
.
Review of sytems:
(+) Per HPI
(-) Denies chills, night sweats, recent weight loss or gain. 
Denies headache, sinus tenderness, rhinorrhea or congestion. 
Denied cough, shortness of breath. Denied chest pain or 
tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denied arthralgias or myalgias.
 
Past Medical History:
Otosclerosis
Mycoplasma pneumonia
Endometriosis
Asthma
 
Social History:
___
Family History:
Mother had stroke at age ___, HTN in mothers family.
 
Physical Exam:
Admission Exam:
Vitals: T: 97.9 BP: 130/86 P: 88 R: 16 O2: 100%RA  
General: Alert, oriented, no acute distress but anxious 
appearing  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, no 
tonsillar swelling  
Neck: supple, JVP not elevated, shotty nontender cervical 
lymphadenopathy bilaterally, normal thyroid
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, ___, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, very faint redness of chest with 1 pustule noted, no 
supraclav, axillary LAD appreciated.  Mild spinal tenderness 
lumbar back.  No oslers nodes, ___ lesions appreciated.  
Small, healing burn scar over right carpometacarpal joint, small 
healing lesion on index finger
Neuro: ___ intact, grossly normal sensation, normal gait, 
able to walk on toes and heels, however does have antalgic gait 
to the right when walking on heels.  On strength testing, ___ 
strength RLE, able to generate ___ strength LLE, but quickly 
stops because of "funny feeling in back" that she is unable to 
further elaborate about.  ___ strength upper extremities, but 
stops quickly due to low back pain.

Discharge Exam:
Changes - ___ strength lower extremities, able to sustain full 
strength.  No deficits with walking on heels or toes.  No back 
tenderness.
 
Pertinent Results:
Admission Labs:

___ 04:15PM BLOOD ___ 
___ Plt ___
___ 04:15PM BLOOD ___ 
___
___ 04:15PM BLOOD ___ ___
___ 04:15PM BLOOD ___
___ 04:15PM BLOOD ___ 
___
___ 07:00AM BLOOD ___
___ 04:15PM BLOOD ___
___ 04:15PM URINE ___ Sp ___
___ 04:15PM URINE ___ 
___
___ 04:15PM URINE RBC-<1 ___ 
___

MICRO:
URINE CULTURE (Final ___:    NO GROWTH.

Blood Culture x3 - PENDING - no growth to date

CXR:
PA AND LATERAL VIEWS OF THE CHEST: The cardiac, mediastinal and 
hilar
contours are normal. Lungs are clear. The pulmonary vascularity 
is normal.
No pleural effusion or pneumothorax is present. There are no 
acute osseous
findings.
 
IMPRESSION: No acute cardiopulmonary abnormality.

Discharge Labs:

___ 07:00AM BLOOD ___ 
___ Plt ___
___ 07:00AM BLOOD ___ 
___ y/o female with PMHx of endometriosis, asthma who presents 
with fevers and low back pain after recent antibiotic treatment. 
 Patient remained afebrile in hospital and discharged with PCP 
follow up.
.
# Fevers - The patient received one dose of vancomycin in ED.  
Blood cultures were sent as well.  She was not given antibiotics 
while on the floor.  She remained afebrile and her blood 
cultures, UA and urine culture did not show evidence of 
infection.  Her blood cultures were pending at the time of 
discharge.  ESR and CRP were normal as well.  It was thought her 
symptoms may have been due to medication effect and viral 
infection.  The decision was made to hold on further antibiotics 
and follow up her cultures to see if patient declares herself.  
This was discussed with her PCP who agreed with the plan to 
monitor the patient and she was scheduled for follow up.
.
# Low back pain - The patient's back pain improved on Hospital 
Day #2 and she was able to ambulate without difficulty or pain.  
Her Lumber spine MRI report was obtained and showed no evidence 
of discitis or other infectious etiology.
.
INACTIVE ISSUES
.
# TIA - No events concerning for TIA - continued on aspirin.
.
# Endometriosis - Stable.
.
# Asthma - Stable, continue advair
.
# Cold sores - continued valtrex
.
# Anxiety - continued on zoloft
.
Transitional Issues:
- f/u with PCP
- ___ blood cultures
.
 
Medications on Admission:
Valtrex 1gm 
Claritin
Advair
Zoloft
Aspirin 325mg
 
Discharge Medications:
1. ___ mcg/dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
2. Claritin 10 mg Tablet Sig: One (1) Tablet PO once a day.  
3. Valtrex 1 g Tablet Sig: One (1) Tablet PO once a day.  
4. sertraline 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. aspirin 325 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Fevers, low back pain

Secondary: Asthma, anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

 It was a pleasure taking care of you during your 
hospitalization.  You were admitted with fevers and low back 
pain.  You received one dose of antibiotics in the Emergency 
Room, but did not get anymore.  We watched you overnight and you 
did not have any fevers.  We sent blood and urine cultures which 
do not show any signs of infection to date but do need to be 
followed up by your PCP.  We also checked blood tests for signs 
of inflammation which were negative.  We got the report of your 
MRI and it showed no evidence of infection in your back.
.
No changes were made to your medication list.
.
Please follow up with Dr. ___ at the appointment on 
___.
 
Followup Instructions:
___